US04654347
N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-ethylformamide
As described for Example 59, 0.01 mole of N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl]phenyl]formamide in 30 ml of dimethylformamide is reacted with 0.384 g of 60% sodium hydride in oil. To the mixture is added 0.85 ml of ethyl iodide and the mixture stirred overnight. Work up as for Example 59 gives the desired product.

reactant | N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl]phenyl]formamide | 0.01 mole | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)NC=O | C20H14N4O2
reactant | sodium hydride | 0.384 g | [H-].[Na+]
reactant | ethyl iodide | 0.85 ml | C(C)I | C2H5I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-ethylformamide | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C=O)CC | C22H18N4O2
